US06191150B1
To a stirred solution of (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid (6.0 g, 32.3 mmol) in 33 mL of dichloromethane at 0° C. is added 2-tetrahydropyranyloxyamine (7.70 g, 65.8 mmol) followed by EDC (7.50 g, 39.4 mmol). The reaction mixture is allowed to warm to 25° C., stirred 12 h, then diluted with 100 mL of EtOAc and washed successively with 50 mL each of water, 1 M aqueous sodium bisulfate solution, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The combined organic layers are dried over sodium sulfate and filtered, and the solvents are removed under reduced pressure. Purification by flash chromatography on silica gel eluting with 10% EtOAc-hexanes affords 9.0 g (97%) of (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid 2-tetrahydropyranyloxyamide as a gum.

reactant | (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid | 32.3 mmol, 6.0 g | CC(C[C@@H](C(=O)O)[C@@H](CCC)O)C | C10H20O3
reactant | 2-tetrahydropyranyloxyamine | 65.8 mmol, 7.70 g | O1C(CCCC1)ON | C5H11NO2
reactant | EDC | 39.4 mmol, 7.50 g
solvent | dichloromethane | 33 mL | ClCCl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid 2-tetrahydropyranyloxyamide | 9.0 g, 97% | O1C(CCCC1)ONC([C@@H]([C@@H](CCC)O)CC(C)C)=O | C15H29NO4
